US08470803B2
To a solution of 2-bromo-5-(tert-butoxycarbonyl(5-cyano-6-methoxypyridin-2-yl)amino)benzyl acetate (1.99 g, 4.18 mmol) in 1,4-dioxane (17 mL) was added potassium acetate (1.23 g, 12.54 mmol), bis(pinacolato)diboron (1.17 g, 4.60 mmol), and 1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.102 g, 0.125 mmol). The mixture was stirred under nitrogen at 80° C. for five hours. The reaction was cooled to room temperature, filtered through a Celite pad, and the solvent was removed under reduced pressure. The residue was purified by Combiflash to give 5-(tert-butoxycarbonyl(5-cyano-6-methoxypyridin-2-yl)amino)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl acetate (2.20 g, 91%).

reactant | 2-bromo-5-(tert-butoxycarbonyl(5-cyano-6-methoxypyridin-2-yl)amino)benzyl acetate | 4.18 mmol, 1.99 g | C(C)(=O)OCC1=C(C=CC(=C1)N(C1=NC(=C(C=C1)C#N)OC)C(=O)OC(C)(C)C)Br | C21H22BrN3O5
reactant | potassium acetate | 12.54 mmol, 1.23 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 4.60 mmol, 1.17 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 17 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.125 mmol, 0.102 g | Cl[Pd]Cl
product | 5-(tert-butoxycarbonyl(5-cyano-6-methoxypyridin-2-yl)amino)-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl acetate | 2.20 g, 91% | C(C)(=O)OCC1=C(C=CC(=C1)N(C1=NC(=C(C=C1)C#N)OC)C(=O)OC(C)(C)C)B1OC(C(O1)(C)C)(C)C | C27H34BN3O7
